US08114886B2
5-[(2,5-Difluorophenyl) [(4-fluoro-3-methylphenyl)thio]methyl]-4-methylpyridine-2-carbaldehyde
A solution of 2-bromo-5-[(2,5-difluorophenyl)[(4-fluoro-3-methylphenyl)thio]methyl]-4-methylpyridine (2.0 g, 4.6 mmol) in toluene (50 ml) was cooled to −78° C., and in an argon atmosphere, n-butyllithium (1.54 M hexane solution, 3.6 ml, 5.5 mmol) was added thereto. After stirring for 10 minutes at the same temperature, the mixture was allowed to warm to −40° C., stirred for 30 minutes, and cooled again to −78° C., and then N,N-dimethylformamide (424 μl, 5.5 mmol) was added. After stirring for 30 minutes at the same temperature, water was added thereto, and the mixture was extracted twice with ethyl acetate. The combined organic layer was washed with saturated brine, subsequently dried over anhydrous sodium sulfate, and filtered, and then the filtrate was concentrated under reduced pressure. The resulting residue was subjected to flash silica gel column chromatography. The fraction obtained from an elution with hexane:ethyl acetate=95:5 was concentrated under reduced pressure to obtain the title compound (1.1 g, 2.8 mmol, 63%) as a colorless oily substance.

reactant | 2-bromo-5-[(2,5-difluorophenyl)[(4-fluoro-3-methylphenyl)thio]methyl]-4-methylpyridine | 4.6 mmol, 2.0 g | BrC1=NC=C(C(=C1)C)C(SC1=CC(=C(C=C1)F)C)C1=C(C=CC(=C1)F)F | C20H15BrF3NS
reactant | n-butyllithium | 5.5 mmol, 1.54 M, 3.6 ml | C(CCC)[Li]
reactant | N,N-dimethylformamide | 5.5 mmol, 424 μl | CN(C=O)C | C3H7NO
reactant | water | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[(2,5-Difluorophenyl) [(4-fluoro-3-methylphenyl)thio]methyl]-4-methylpyridine-2-carbaldehyde | 2.8 mmol, 1.1 g, 63% | FC1=C(C=C(C=C1)F)C(C=1C(=CC(=NC1)C=O)C)SC1=CC(=C(C=C1)F)C | C21H16F3NOS
